US08017607B2
To a mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (30.2 mg, 0.071 mmol) in CH2Cl2 (3 mL) was added DIPEA (29.7 mg, 0.230 mmol) and pyridine-3-sulfonyl chloride hydrochloride (22.8 mg, 0.106 mmol, Acme Bioscience). It was stirred at rt for 3 hrs under argon. More DIPEA (29.7 mg, 0.230 mmol) and pyridine-3-sulfonyl chloride hydrochloride (Acme Bioscience, 25.2 mg, 0.118 mmol) were added. After 4 hrs the reaction mixture was extracted with EtOAc, washed with water, saturated sodium bicarbonate, water, and saturated NaCl. The organic phase was separated, and dried over Na2SO4. The reaction mixture was then purified by flash column to give rac (2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-1-(pyridine-3-sulfonyl)-pyrrolidine-3-carbonitrile (20.3 mg, 50.4%). HRMS (ES+) m/z Calcd for C27H25Cl2F2N3O2S+H [(M+H)+]: 564.1086; Found: 564.1087.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.071 mmol, 30.2 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | DIPEA | 0.230 mmol, 29.7 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | pyridine-3-sulfonyl chloride hydrochloride | 0.106 mmol, 22.8 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
reactant | DIPEA | 0.230 mmol, 29.7 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | pyridine-3-sulfonyl chloride hydrochloride | 0.118 mmol, 25.2 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | rac (2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-1-(pyridine-3-sulfonyl)-pyrrolidine-3-carbonitrile | 20.3 mg, 50.4% | ClC=1C(=C(C=CC1)C1N(CC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)S(=O)(=O)C=1C=NC=CC1)F | C27H25Cl2F2N3O2S
